US05760032
Methanol (60 ml) and a 2M aqueous sodium hydroxide solution (7.0 ml) were added to ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate (4.0 g), and the mixture was stirred at 50° C. for 30 minutes and at room temperature for 4 hours. Methanol was evaporated, and water and ethyl acetate were added. The aqueous layer was taken out, and citric acid was added to adjust the solution to pH 3. The solution was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from ethyl acetate to give 2.6 g of 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetic acid.

reactant | sodium hydroxide | 2M, 7.0 ml | [OH-].[Na+]
reactant | ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate | 4.0 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C30H28ClN5O4S
solvent | Methanol | 60 ml | CO | CH4O
product | 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetic acid | 2.6 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)O)C=CC=C1 | C28H24ClN5O4S
